US04889857
By the use of 2-chloromethyl-4-benzylmorpholine and N-benzyl-N-ethylamine, the reaction is similarly carried out as Reference example 2 to give 2-(ethylaminomethyl)morpholine dihydrochloride as white crystals, melting at 222°-223° C.

reactant | 2-chloromethyl-4-benzylmorpholine | ClCC1CN(CCO1)CC1=CC=CC=C1 | C12H16ClNO
reactant | N-benzyl-N-ethylamine | C(C1=CC=CC=C1)NCC | C9H13N
product | 2-(ethylaminomethyl)morpholine dihydrochloride | Cl.Cl.C(C)NCC1CNCCO1 | InChI=1S/C7H16N2O.2ClH/c1-2-8-5-7-6-9-3-4-10-7;;/h7-9H,2-6H2,1H3;2*1H
